US07244861B2
907 mg of 5-bromo-3-fluoro-2-methoxybenzyl alcohol was dissolved in 10 ml of N,N-dimethylformamide. 400 mg of imidazole and 1.06 g of chloro(t-butyl)diphenylsilane were added, followed by stirring for 1 hour at room temperature and for 0.5 hours at 50° C. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, filtered, and the solvent was evaporated, to give 1.882 g of [(5-bromo-3-fluoro-2methoxybenzyl)oxy](t-butyl)diphenylsilane.

reactant | 5-bromo-3-fluoro-2-methoxybenzyl alcohol | 907 mg | BrC=1C=C(C(=C(CO)C1)OC)F | C8H8BrFO2
reactant | imidazole | 400 mg | N1C=NC=C1 | C3H4N2
reactant | chloro(t-butyl)diphenylsilane | 1.06 g | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C16H19ClSi
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(5-bromo-3-fluoro-2methoxybenzyl)oxy](t-butyl)diphenylsilane | 1.882 g | BrC=1C=C(C(=C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C1)OC)F | C24H26BrFO2Si
